US05196446
2-(3,4-Dihydroxybenzoyl)-3-(5-indolyl)-2-propenenitrile
5-Formyl indole (145 mg, 1 mmole), 3,4-dihydroxybenzoylacetonitrile (177 mg, 1 mmole) and β-alanine (30 mg) in 30 ml ethanol were refluxed for 3 hours. Water was added and the reaction mixture was extracted with EtOAc. The organic layer was concentrated and the resulting oily residue was purified by chromatography on silica gel to give 86 mg (31%) of the title compound as an orange solid, m.p. 185° C.

reactant | 5-Formyl indole | 1 mmole, 145 mg | C(=O)C=1C=C2C=CNC2=CC1 | C9H7NO
reactant | 3,4-dihydroxybenzoylacetonitrile | 1 mmole, 177 mg | OC=1C=C(C(=O)CC#N)C=CC1O | C9H7NO3
reactant | β-alanine | 30 mg | NCCC(=O)O | C3H7NO2
reactant | Water | O | H2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-(3,4-Dihydroxybenzoyl)-3-(5-indolyl)-2-propenenitrile | 86 mg, 31% | OC=1C=C(C(=O)C(C#N)=CC=2C=C3C=CNC3=CC2)C=CC1O | C18H12N2O3
